US04751228
17 ml dry dimethylformamide in 40 ml dry dioxan are cooled to 0° C. and 1.0 g (7.9 mMole) oxalyl chloride added dropwise thereto under an atmosphere of nitrogen. After 20 minutes, 2.7 g (6.9 mMole) (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid (European Patent Application 173 933) are added portionwise thereto at 0° C. and the reaction mixture is warmed to 20° C. After 30 minutes at 20° C., this solution is added dropwise to a solution, cooled to 0° C., of 2.6 g (15.8 mMole) N-benzyl-N-methylethylene-diamine in 20 ml n-hexane. After warming to 20° C., the reaction mixture is stirred for 30 minutes then, with renewed ice cooling, 2 N aqueous sodium carbonate solution is added dropwise thereto and the reaction mixture is extracted twice with dichloromethane. The dichloromethane solutions are washed with water and dried over anhydrous sodium sulphate. The solvent is removed in a vacuum and the residue is chromatographed on silica gel with dichloromethane/methanol (9:1 v/v). The fraction with the Rf of 0.5 is isolated, dissolved in diethyl ether and the dihydrochloride precipitated out with hydrogen chloride in diethyl ether. This is recrystallized twice from acetonitrile. There is obtained (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid 2-(N-benzyl-N-methylamino)-ethylamide dihydrochloride in the form of colorless crystals; mp 178°-180° C.

reactant | oxalyl chloride | 7.9 mMole, 1.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid | 6.9 mMole, 2.7 g | C(C)(C)OC1=C2C(C(=C(NC2=CC=N1)C)C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C20H19F3N2O3
reactant | N-benzyl-N-methylethylene-diamine | 15.8 mMole, 2.6 g | C(C1=CC=CC=C1)N(CCN)C | C10H16N2
reactant | sodium carbonate | 2 N | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxan | 40 ml | O1CCOCC1 | C4H8O2
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 17 ml | CN(C=O)C | C3H7NO
product | (±)-1,4-dihydro-5-isopropoxy-2-methyl-4-(2-trifluoromethylphenyl)-1,6-naphthyridine-3-carboxylic acid 2-(N-benzyl-N-methylamino)-ethylamide dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CCNC(=O)C1=C(NC2=CC=NC(=C2C1C1=C(C=CC=C1)C(F)(F)F)OC(C)C)C | InChI=1S/C30H33F3N4O2.2ClH/c1-19(2)39-29-27-24(14-15-35-29)36-20(3)25(26(27)22-12-8-9-13-23(22)30(31,32)33)28(38)34-16-17-37(4)18-21-10-6-5-7-11-21;;/h5-15,19,26,36H,16-18H2,1-4H3,(H,34,38);2*1H
